US07060856B2
N-[(R)-2,3-Dihydroxy-propoxy]-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-benzamide (Form IV)
To a flask containing 3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-benzoic acid (2.6 kg, 6.6 mol) and N,N′-carbonyldiimidazole (1.1 kg, 6.8 mol) under nitrogen atmosphere, was added 12 L of dry acetonitrile. After stirring at 22°±5° C. for about 90 minutes, a solution of (R)-O-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine in toluene was added (8.5 L total volume, about 8 moles of amine). The solution was stirred for at least 6 hours at 22°±5 C. Aqueous hydrochloric acid (9 L, 1.5 molar) was added, and after stirring for about 5 minutes, the layers were separated. Aqueous hydrochloric acid (9 L, 1.5 molar) was added to the remaining top layer, and after stirring for about 20 hours, the layers were separated. The remaining top layer was concentrated by vacuum distillation, and then diluted with 15 L toluene and 2 L ethanol. The mixture was warmed to 35–45° C. and diluted with 20 L warm water, then cooled to 0–5° C. The product was collected by filtration and washed with 2 L toluene. The product was recrystallized by dissolving in 12 L toluene and 2 L ethanol (50°±5 C), adding 10 L water and cooling to 0–5° C. After collecting the product by filtration and washing with toluene, the product was dried in a vacuum oven resulting in 2.6 kg of N-[(R)-2,3-dihydroxypropoxy]-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-benzamide.

reactant | 3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-benzoic acid | 6.6 mol, 2.6 kg | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)I)F | C13H7F3INO2
reactant | acetonitrile | 12 L | C(C)#N | C2H3N
reactant | (R)-O-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine | CC1(OC[C@@H](O1)CON)C | C6H13NO3
reactant | hydrochloric acid | 1.5 molar, 9 L | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[(R)-2,3-Dihydroxy-propoxy]-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-benzamide | O[C@@H](CONC(C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F)=O)CO | C16H14F3IN2O4
